US08212045B2
A flask was charged with (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (1.53 g. 5.15 mmol), pyridine (1.25 ml, 15.4 mmol), sodium thiocyanate (0.417 g, 5.15 mmol) and acetonitrile (15 mL). The solution was heated to 40° C. for 40 minutes. 5-Bromo-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-amine (1.02 g, 3.43 mmol) was added and the reaction was heated to 70° C. overnight. The reaction was cooled to ambient temperature, partitioned between EtOAc and water, dried over sodium sulfate, filtered and concentrated. The residue was purified over silica gel (10% MeOH/EtOAc) to afford (S)-N-(5-bromo-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (1.66 g, 3.18 mmol, 92.7% yield) as a yellow solid.

reactant | (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 5.15 mmol, 1.53 g | CS(=O)(=O)ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C10H16ClNO5S
reactant | pyridine | 15.4 mmol, 1.25 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium thiocyanate | 5.15 mmol, 0.417 g | [S-]C#N.[Na+]
reactant | 5-Bromo-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-amine | 3.43 mmol, 1.02 g | BrC=1C=C(C(=NC1)N)OC=1C(=NN(C1C)C)C | C11H13BrN4O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (S)-N-(5-bromo-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 3.18 mmol, 1.66 g, 92.7% yield | BrC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NN(C2C)C)C | C21H25BrN6O3S
